US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 62 μL (0.55 mmol) of (4-fluoro)-N-methyl-aniline. After purification by chromatography on silica (eluent dichloromethane/methanol 95/5) then trituration in methanol, 25 mg (12%) of 8-[(4-fluorophenyl)-methyl-sulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | (4-fluoro)-N-methyl-aniline | 0.55 mmol, 62 μL | FC1=CC=C(NC)C=C1 | C7H8FN
product | 8-[(4-fluorophenyl)-methyl-sulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 25 mg, 12% | FC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)C.C(C)C(=O)[O-] | InChI=1S/C18H14FN3O3S.C3H6O2/c1-22(12-4-2-11(19)3-5-12)26(24,25)13-6-7-16-15(10-13)14-8-9-20-17(14)18(23)21-16;1-2-3(4)5/h2-10,20H,1H3,(H,21,23);2H2,1H3,(H,4,5)/p-1
